US06730668B2
Preparation of 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (5):
To a solution of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 4, (1.3 g, 3.8 mmol) in THF:methanol (56 mL of a 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (9.34 g, 15.2 mmol) in water (42 mL). The reaction is stirred 1 hour at room temperature, diluted with aqueous NaHCO3 and extract three times with ethyl acetate. The organic layers are combined, dried, and concentrated in vacuo too afford the crude desired product which is used without further purification.

reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | FC1=CC=C(C=C1)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C17H15FN4OS
reactant | methanol | CO | CH4O
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 42 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | FC1=CC=C(C=C1)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)S(=O)(=O)C | C17H15FN4O3S
